US08039430B2
Methyl(2R)-2-amino-4-pentenoate hydrochloride (38)
To a suspension of (2R)-2-amino-4-pentenoic acid (200 mg, 1.74 mmol) in methanol (6 mL) at 0° C. was added dropwise thionyl chloride (1 mL). The resulting solution was allowed to stir for 16 h before the solvent was removed by evaporation and the product crystallized with diethyl ether. The diethyl ether was removed by evaporation to yield the title compound (287 mg, 1.74 mmol, 100%) as a white solid which had spectral data in agreement with that reported.123 Mp 135-140° C. 1H NMR (CDCl3, 300 MHz): δ 8.70 (bs, 3H, NH3+); 5.89 (m, 1H, H4); 5.32 (d, J=17.3 Hz, 1H, H5a); 5.24 (d, J=10.1 Hz, 1H, H5b); 4.31 (m, 1H, H2); 3.81 (s, 3H, OCH3); 2.87 (t, J=6.3 Hz, 2H, H3). Mass Spectrum (ES, +ve) m/z 130 (100%) [M+]. HRMS calcd for C6H12NO2 130.0868, found 130.0870.

reactant | (2R)-2-amino-4-pentenoic acid | 1.74 mmol, 200 mg | N[C@@H](C(=O)O)CC=C | C5H9NO2
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 6 mL | CO | CH4O
product | Methyl(2R)-2-amino-4-pentenoate hydrochloride | 1.74 mmol, 287 mg, 100% | Cl.N[C@@H](C(=O)OC)CC=C | InChI=1S/C6H11NO2.ClH/c1-3-4-5(7)6(8)9-2;/h3,5H,1,4,7H2,2H3;1H/t5-;/m1./s1
